US06451821B1
The process is performed under the conditions of Example 1 starting with 0.46 g of N-(tert-butyl)-N′-[(1R)-2-hydroxy-1-(4-pyridylmethyl)ethyl]thiourea which is heated in 5 cm3 of aqueous 5 N hydrochloric acid for 16 hours at a temperature in the region of 100° C. After concentration of the reaction mass under reduced pressure (5 kPa) at a temperature in the region of 40° C., an oil is obtained which is taken up in 3 cm3 of 2-propanol. The resulting crystalline precipitate is spin-filtered, washed with 2-propanol and air-dried. 0.1 g of (+)-(4R)-4-(4-pyridylmethyl)-4,5-dihydro-1,3-thiazol-2-ylamine dihydrochloride is obtained in the form of an orange-colored solid melting at 150° C. (αD20=+38.3±0.9 at a concentration of 0.5% in MeOH).

reactant | N-(tert-butyl)-N′-[(1R)-2-hydroxy-1-(4-pyridylmethyl)ethyl]thiourea | 0.46 g | C(C)(C)(C)NC(=S)N[C@@H](CO)CC1=CC=NC=C1 | C13H21N3OS
reactant | hydrochloric acid | 5 N | Cl | ClH
solvent | 2-propanol | 3 cm3 | CC(C)O | C3H8O
product | (+)-(4R)-4-(4-pyridylmethyl)-4,5-dihydro-1,3-thiazol-2-ylamine dihydrochloride | 0.1 g | Cl.Cl.N1=CC=C(C=C1)C[C@H]1N=C(SC1)N | InChI=1S/C9H11N3S.2ClH/c10-9-12-8(6-13-9)5-7-1-3-11-4-2-7;;/h1-4,8H,5-6H2,(H2,10,12);2*1H/t8-;;/m1../s1
